US05556854
b) 6-Benzyl-3-methyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dionehydrochloride
14.3 g of 6-benzyl-3-methyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione were dissolved in 300 ml of dichloromethane, and 6-benzyl-3-methyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione hydrochloride was precipitated with a solution of hydrochloric acid in ether, while cooling with ice. The product was purified by recrystallization from isopropanol.

reactant | 6-benzyl-3-methyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dione | 14.3 g | C(C1=CC=CC=C1)N1CC2=C(NC(N(C2=O)C)=O)CC1 | C15H17N3O2
reactant | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 6-Benzyl-3-methyl-5,6,7,8-tetrahydro-1H-pyrido[4,3-d]pyrimidine-2,4-dionehydrochloride | Cl.C(C1=CC=CC=C1)N1CC2=C(NC(N(C2=O)C)=O)CC1 | InChI=1S/C15H17N3O2.ClH/c1-17-14(19)12-10-18(8-7-13(12)16-15(17)20)9-11-5-3-2-4-6-11;/h2-6H,7-10H2,1H3,(H,16,20);1H
